US04186135
In the same manner as described in Example 53, the 6,7-diacetamino-1,4-benzodioxane-5-carboxylic acid (prepared by acetylation of the 6,7-diamino-1,4-benzodioxane-5-carboxylic acid) was condensed with the 1-piperidinopropylamine in the presence of the isobutyl chloroformiate. The N-(1-piperidinopropyl)-6,7-diacetamino-1,4-benzodioxane-5-carboxamide was obtained (M.P.: above 260° C. with decomposition). The structure was confirmed by nuclear magnetic resonance analysis.

reactant | 6,7-diacetamino-1,4-benzodioxane-5-carboxylic acid | N(C(=O)C)C1=C(C2=C(OCCO2)C=C1NC(=O)C)C(=O)O | C13H14N2O6
reactant | 6,7-diamino-1,4-benzodioxane-5-carboxylic acid | NC1=C(C2=C(OCCO2)C=C1N)C(=O)O | C9H10N2O4
reactant | 1-piperidinopropylamine | N1(CCCCC1)C(CC)N | C8H18N2
product | N-(1-piperidinopropyl)-6,7-diacetamino-1,4-benzodioxane-5-carboxamide | N1(CCCCC1)C(CC)NC(=O)C1=C(C(=CC=2OCCOC21)NC(=O)C)NC(=O)C | C21H30N4O5
